US06969728B2
Step 2) Preparation of 4-[3,5-Dimethyl-1-(4-pyridin-2-yl-pyrimidin-2-yl)-1H-pyrazol-4-yloxy]-benzaldehyde.
To a solution of {4-[3,5-dimethyl-1-(4-pyridin-2-yl-pyrimidin-2-yl)-1H-pyrazol-4-yloxy]phenyl}-methanol (1.53 g, 4.10 mmol) in chloroform (80 mL) was added the Dess-Martin periodinane (2.36 g, 5.56 mmol). The reaction mixture was stirred at room temperature for 3 hours and then concentrated to provide a white paste. Flash chromatography over silica (methanol/methylene chloride) provided 1.37 g (90%) the product as a white solid. 1H NMR analysis was consistent with assigned structure.

reactant | {4-[3,5-dimethyl-1-(4-pyridin-2-yl-pyrimidin-2-yl)-1H-pyrazol-4-yloxy]phenyl}-methanol | 4.10 mmol, 1.53 g | CC1=NN(C(=C1OC1=CC=C(C=C1)CO)C)C1=NC=CC(=N1)C1=NC=CC=C1 | C21H19N5O2
reactant | Dess-Martin periodinane | 5.56 mmol, 2.36 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | chloroform | 80 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-[3,5-Dimethyl-1-(4-pyridin-2-yl-pyrimidin-2-yl)-1H-pyrazol-4-yloxy]-benzaldehyde | 1.37 g, 90% | CC1=NN(C(=C1OC1=CC=C(C=O)C=C1)C)C1=NC=CC(=N1)C1=NC=CC=C1 | C21H17N5O2
